US04968702
3-Amino-2-[1,1'-biphenyl]-4-yl-6-trifluoromethyl-4-quinolinecarboxylic acid
To a solution of 6.45 g of 5-trifluoromethylisatin (J. Org. Chem., 1344, 42, 1977) in 70 ml of 2.5N sodium hydroxide at 90°-95° C. was added a warm solution of 10.55 g of 2-amino-4'-phenylacetophenone, hydrochloride in 75 ml of water, 75 ml of ethanol and 50 ml of tetrahydrofuran over 30 minutes. The mixture was refluxed 1.5 hours, then the organic solvents were boiled off, the mixture diluted with 125 ml of water and filtered while still warm. The recovered solid was dissolved in 500 ml of hot water and filtered twice through celite. The second filtrate was acidified to pH 5 with glacial acetic acid, heated to near boiling, then cooled and the solid collected. This solid was recrystallized from acetonitrile/tetrahydrofuran, giving 5.74 g of the desired product as green crystals mp 255°-260° C. (dec.).

reactant | 5-trifluoromethylisatin | 6.45 g | FC(C=1C=C2C(C(NC2=CC1)=O)=O)(F)F | C9H4F3NO2
reactant | 2-amino-4'-phenylacetophenone, hydrochloride | 10.55 g | Cl.NCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1
reactant | sodium hydroxide | 2.5N, 70 ml | [OH-].[Na+]
solvent | water | 75 ml | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 125 ml | O | H2O
product | 3-Amino-2-[1,1'-biphenyl]-4-yl-6-trifluoromethyl-4-quinolinecarboxylic acid | 5.74 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)C(F)(F)F)C1=CC=C(C=C1)C1=CC=CC=C1 | C23H15F3N2O2
